US09056779B2
The 1,3-diisobutylimidazolium bromide product was dissolved in deionized water (10 mL water/1 mmol salt) in a polyethylene plastic bottle. To the solution, Bio-Rad AG 1-X8 ion-exchange resin (1.1 g resin/mmol salt) was added and the slurry-like mixture was gently stirred overnight. The exchange solution was filtered and a small aliquot of the filtrate was titrated with 0.1N HCl to indicate the exchange yielded 89% of the desired 1,3-diisobutylimidazolium hydroxide product.

reactant | 1,3-diisobutylimidazolium bromide | [Br-].C(C(C)C)[N+]1=CN(C=C1)CC(C)C
reactant | water | 1 mmol, 10 mL | O | H2O
solvent | polyethylene | C(C[*:2])[*:1]
product | 1,3-diisobutylimidazolium hydroxide | 89% | [OH-].C(C(C)C)[N+]1=CN(C=C1)CC(C)C | InChI=1S/C11H21N2.H2O/c1-10(2)7-12-5-6-13(9-12)8-11(3)4;/h5-6,9-11H,7-8H2,1-4H3;1H2/q+1;/p-1
